2120-11-08 07:49:00 Physician Resident Progress Note
Chief Complaint: Transfer from OSH with Sepsis
   24 Hour Events:
 BLOOD CULTURED - At [**2120-11-7**] 08:46 PM
 INVASIVE VENTILATION - START [**2120-11-7**] 09:00 PM
   intubated priot to admission
 MULTI LUMEN - START [**2120-11-7**] 09:07 PM
 URINE CULTURE - At [**2120-11-8**] 02:01 AM
 BLOOD CULTURED - At [**2120-11-8**] 04:28 AM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Metronidazole - [**2120-11-7**] 11:50 PM
   Piperacillin/Tazobactam (Zosyn) - [**2120-11-8**] 12:54 AM
   Infusions:
   Fentanyl - 50 mcg/hour
   Midazolam (Versed) - 2 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2120-11-8**] 12:29 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2120-11-8**] 07:47 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.7
   Tcurrent: 37.1
C (98.7
   HR: 96 (89 - 121) bpm
   BP: 122/66(78) {100/44(54) - 143/78(93)} mmHg
   RR: 30 (20 - 30) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 71 Inch
    CVP: 11 (10 - 12)mmHg
   Total In:
                                                                    560 mL
                                                                  1,377 mL
   PO:
   TF:
   IVF:
                                                                    560 mL
                                                                  1,377 mL
   Blood products:
   Total out:
                                                                    460 mL
                                                                    630 mL
   Urine:
                                                                    160 mL
                                                                    530 mL
   NG:
                                                                    100 mL
   Stool:
   Drains:
   Balance:
                                                                    100 mL
                                                                    747 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 510) mL
   RR (Set): 22
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 33
   PIP: 26 cmH2O
   Plateau: 22 cmH2O
   SpO2: 98%
   ABG: 7.32/39/58/20/-5
   Ve: 11.1 L/min
   PaO2 / FiO2: 116
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese
   Eyes / Conjunctiva: PERRL, Conjunctiva pale
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, NG tube
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Clear : )
   Abdominal: Soft, Distended, Tender: All over; not rebound
   Extremities: Right: 2+, Left: 2+
   Musculoskeletal: Unable to stand
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): x3, Movement: Purposeful, Tone: Normal
   Labs / Radiology
   155 K/uL
   12.0 g/dL
   208 mg/dL
   2.1 mg/dL
   20 mEq/L
   4.1 mEq/L
   58 mg/dL
   120 mEq/L
   149 mEq/L
   37.1 %
   15.9 K/uL
        [image002.jpg]
                             [**2120-11-7**]  08:52 PM
                             [**2120-11-7**]  09:06 PM
                             [**2120-11-8**]  04:21 AM
   WBC
   22.1
   15.9
   Hct
   41.7
   37.1
   Plt
   189
   155
   Cr
   2.1
   2.1
   TCO2
   21
   Glucose
   227
   208
   Other labs: PT / PTT / INR:19.1/33.8/1.8, ALT / AST:34/71, Alk Phos / T
   Bili:116/0.8, Amylase / Lipase:194/237, Differential-Neuts:82.0 %,
   Band:2.0 %, Lymph:13.0 %, Mono:2.0 %, Eos:0.0 %, Lactic Acid:1.3
   mmol/L, Albumin:1.8 g/dL, LDH:366 IU/L, Ca++:6.5 mg/dL, Mg++:2.4 mg/dL,
   PO4:3.3 mg/dL
   Assessment and Plan
   This is a 65 yoM w/ a h/o DM and ETOH abuse presenting from an outside
   hospital with biliary sepsis.
   .
   Plan:
   # Pancreatitis and Biliary Sepsis - patient likely has biliary sepsis
   given history as well as enterobacter in blood as well as in biliary
   specimen from initial presentation.  Also has pancreatitis related to
   gallstones.  He also has a large amount of ascites that is infected,
   possibily primarily versus secondary bacterial peritonitis.  In this
   setting it is more likely secondary.  The patient is hypotensive
   requring pressors.
   -surveillance cultures, will need to obtain OSH records of bacterial
   sensitivities
   -continue zosyn flagyl for likely biliary sepsis
   -f/u sensitivities on enterobacter
   -continue fluid resuscitation, goal CVP 8-12 and goal UOP > 30cc/hr
   -monitor SVO2 from central venous catheter and goal of 70
   -contact ERCP fellow regarding further management given worsening
   sepsis and 3 episodes of gallstone pancreatitis
   -send sputum cultures and obtain CXR, add vancomycin if spikes
   empirically
   -send C diff if diarrhea and send a u/a and urine culture
   -given the increase in intraabdominal ascites possibilities are of a
   bile leak, a aberrant duct or a pancreatic duct disruption due to
   apparently 3 episodes of gallstone pancreatitis.  He had a negative
   HIDA scan but it is possible he had a pancreatic duct disruption that
   was not seen or that his bile leak stopped by the time he had his scan,
   less likely this was a false negative HIDA scan. Per ERCP fellow this
   is unlikely given the negative HIDA scan and more likely he has
   pancreatitis with massive third spacing given the background of ETOH
   cirrhosis.
   -call surgery consult in a.m. (Dr.[**Name (NI) 2100**] service)
   -obtain an abdominal ultrasound to evaluate liver, CBD, hepatic and
   portal flow
   .
   # Respiratory Failure: Likely due to fluid overload and pleural
   effusions tracking up from ascites.  Patient is intubated.  At this
   current juncture he will need fluid repletion for the above and will
   diurese after he begins to improve.
   -continue to monitor volume status and diurese eventually but for now
   will give volume for pancreatitis / biliary sepsis
   -in addition possible that patient had aspiration pneumonitis versus
   pneumonia given his altered mental status when his sepsis was
   worsening, would continue to follow fever curve and secretions and send
   a sputum culture if increase in secretions.
   .
   # DM: on oral hypoglycemics at home.
   -RISS
   .
   # ETOH abuse: Admitted to OSH on [**2120-11-2**], no withdrawal noted at OSH
   and he is nearing the end of the window for ETOH withdrawal but also he
   has been not drinking for several weeks per his family.
   -thiamine, folate
   .
   # Renal Failure: Cr on [**11-5**] was 1.1, increasing on [**11-6**] to 1.7 and to
   2.2 on [**11-7**] at OSH.  Very likely secondary to sepsis as well as large
   amount of ascites and hepatorenal syndrome physiology.
   -send urine lytes
   -obtain abdominal ultrasound to evaluate kidneys
   -foley in place
   -maintain hydration as above using CVP and UOP as parameters
   .
   # FEN:  NPO for now
   .
   # Access:
   .
   # PPx:  sc heparin tid, pneumoboots, PPI IV daily
   .
   # Code:  FULL
   .
   # Dispo:  ICU
   .
   # Comm:  wife [**Telephone/Fax (1) 2101**]
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2120-11-7**] 09:06 PM
   Multi Lumen - [**2120-11-7**] 09:07 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2120-11-08 10:03:00 Physician Attending Progress Note
Chief Complaint: Sepsis
   Respiratory Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 BLOOD CULTURED - At [**2120-11-7**] 08:46 PM
 INVASIVE VENTILATION - START [**2120-11-7**] 09:00 PM
   intubated priot to admission
 MULTI LUMEN - START [**2120-11-7**] 09:07 PM
 URINE CULTURE - At [**2120-11-8**] 02:01 AM
 BLOOD CULTURED - At [**2120-11-8**] 04:28 AM
   Pressors weaned off overnight
   History obtained from [**Hospital 15**] Medical records
   Patient unable to provide history: Sedated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2120-11-8**] 12:54 AM
   Metronidazole - [**2120-11-8**] 08:00 AM
   Infusions:
   Fentanyl - 50 mcg/hour
   Midazolam (Versed) - 2 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2120-11-8**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2120-11-8**] 09:44 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.7
   Tcurrent: 37.2
C (99
   HR: 92 (89 - 121) bpm
   BP: 118/59(73) {100/44(54) - 143/78(93)} mmHg
   RR: 20 (20 - 30) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 71 Inch
   CVP: 9 (3 - 12)mmHg
   Total In:
                                                                    560 mL
                                                                  2,528 mL
   PO:
   TF:
   IVF:
                                                                    560 mL
                                                                  2,498 mL
   Blood products:
   Total out:
                                                                    460 mL
                                                                    775 mL
   Urine:
                                                                    160 mL
                                                                    675 mL
   NG:
                                                                    100 mL
   Stool:
   Drains:
   Balance:
                                                                    100 mL
                                                                  1,753 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 510) mL
   RR (Set): 22
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 33
   PIP: 26 cmH2O
   Plateau: 22 cmH2O
   SpO2: 99%
   ABG: 7.32/39/58/20/-5
   Ve: 11.1 L/min
   PaO2 / FiO2: 116
   Physical Examination
   General Appearance: Overweight / Obese
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, NG tube
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Diminished: )
   Abdominal: Soft, Non-tender, Distended, Tender: Significantly tender
   diffusely
   Extremities: Right: 2+, Left: 2+
   Skin:  Patient with erythema and warmth in patellar areas bilaterally,
   he has anterior abdominal wall region with similar area of erythema and
   warmth.  No discomfort with passive ROM of the knee joint.
   Neurologic: Responds to: Verbal stimuli, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   12.0 g/dL
   155 K/uL
   208 mg/dL
   2.1 mg/dL
   20 mEq/L
   4.1 mEq/L
   58 mg/dL
   120 mEq/L
   149 mEq/L
   37.1 %
   15.9 K/uL
        [image002.jpg]
                             [**2120-11-7**]  08:52 PM
                             [**2120-11-7**]  09:06 PM
                             [**2120-11-8**]  04:21 AM
   WBC
   22.1
   15.9
   Hct
   41.7
   37.1
   Plt
   189
   155
   Cr
   2.1
   2.1
   TCO2
   21
   Glucose
   227
   208
   Other labs: PT / PTT / INR:19.1/33.8/1.8, ALT / AST:34/71, Alk Phos / T
   Bili:116/0.8, Amylase / Lipase:194/237, Differential-Neuts:82.0 %,
   Band:2.0 %, Lymph:13.0 %, Mono:2.0 %, Eos:0.0 %, Lactic Acid:1.3
   mmol/L, Albumin:1.8 g/dL, LDH:366 IU/L, Ca++:6.5 mg/dL, Mg++:2.4 mg/dL,
   PO4:3.3 mg/dL
   Imaging: CXR--Right sided effusion, NGT and ETT in good position and
   left SCL crossing midline and in good position.
   Assessment and Plan
   65 yo male with history of EtOH abuse now transferred from [**Hospital 2125**] Center with sepsis.  Patient had initial presentation with
   biliary obstruction (Cystic duct stone) and with mild trans-aminitis he
   had cholecystostomy followed by lap CCY.  He was then discharged to
   home and found upon repeat admission to have acute pancreatitis and
   Enterobacter bacteremia leading to sepsis.  He did have modest initial
   improvement but the, in the setting of fluid resuscitation, was found
   to have worsening ascites with concern for bile leak evaluated with
   HIDA scan which was negative.  He, however, had progressive hypoxemia
   requiring intubation and is now transferred to [**Hospital1 19**] for further care.
   The source of the respiratory failure may well be a combination of the
   ascites and likely SBP compromising ventilatory mechanics but also with
   significant concern for evolution of non-cardiogenic edma/[**Doctor Last Name 11**].  For
   management will-->
   1)Sepsis-Multiple possible sources with concern for peritonitis,
   pancreatitis and possible persistent insult from GNR's of biliary
   source.  In addition, he has evidence of cellulitis in abdominal wall
   as well as lower extermities raising concern for possible metastatic
   source of infection.
   -Zosyn/Flagyl and will expand to Vanco/Zosyn/Flagyl
   -ERCP team in to evaluate and follow patient for possible ERCP with
   cholangiogram to evaluate for source of leak in the setting of ascitic
   fluid findings
initial conclusion is to continue with current plan of
   care and defer ERCP at this time given minimal evidece of leak
   -Pancreatitis will be treated as below
   -SBP in the setting of cirrhosis is of concern as well in contributing
   to sepsis
   -Cellulitis suggestion will be followed closely and treated with
   coverage extended to gram positive organisms with Vancomycin
   -Repeat CT scan for follow up evaluation for evolution of pancreatitis
   or to evaluate for flluid collections within abdomen
   -Surgery evaluation for support with the pacreatitis
   -IVF as needed to maintain CVP and the urine flow minimum of 30cc/hr
   for now.
   2)Respiratory Failure-Minimal evidence of airflow obstruction or
   increased resistance suggesting is loss of pulmonary compliance
   contributing.  Oxygenation able to be supported with 0.5 FIO2 and Pplat
   at 22 suggesting resonable levels of support.
   -Continue with A/C support
   -Titrate PEEP up for any decrease in oxygenation
   3)Pancreatitis--Patient with diffuse abdominal tenderness noted, Lipase
   has improved upon comparison with OSH lab studies.
   -Favor post pyloric feeding if tube able to be placed and for support
   -CT scan to evaluate for any evidence of necrosis or alternative
   intra-abdominal collection
   -Pain control with Fentanyl for now
   -npo until post pyloric feeds in place
   -F/U Lipase
   4)Cholelithiasis
ERCP team to follow
   5)EtOH Abuse--Hospitalized for 5 days and no symptoms seen at this
   time.
   ICU Care
   Nutrition: npo for now
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   18 Gauge - [**2120-11-7**] 09:06 PM
   Multi Lumen - [**2120-11-7**] 09:07 PM-_Will need resite of CVL given OSH
   placement
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 60 minutes
   Patient is critically ill

2120-11-09 07:15:00 Physician Resident Progress Note
Chief Complaint: biliary sepsis/pancreatitis
   24 Hour Events:
 ULTRASOUND - At [**2120-11-8**] 11:00 AM
 MULTI LUMEN - START [**2120-11-8**] 05:21 PM
 MULTI LUMEN - STOP [**2120-11-8**] 10:29 PM
   Patient got RIJ placed yesterday.  Appeared to be about 5 cm too far in
   so was pulled back 5 cm.  No official read on chest x-ray from
   radiology, but per ICU team looks okay to use.  Patient evaluated by
   surgery, ERCP, and liver.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Metronidazole - [**2120-11-8**] 08:00 AM
   Vancomycin - [**2120-11-8**] 11:30 AM
   Piperacillin/Tazobactam (Zosyn) - [**2120-11-9**] 06:01 AM
   Infusions:
   Fentanyl - 50 mcg/hour
   Midazolam (Versed) - 2 mg/hour
   Insulin - Regular - 4 units/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2120-11-9**] 12:09 AM
   Other medications:
   Changes to medical and family history: none
   Review of systems is unchanged from admission except as noted below
   Review of systems: none
   Flowsheet Data as of  [**2120-11-9**] 07:15 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 36.3
C (97.4
   HR: 77 (70 - 95) bpm
   BP: 95/51(61) {94/50(61) - 120/73(84)} mmHg
   RR: 24 (12 - 27) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 71 Inch
    CVP: 10 (5 - 18)mmHg
   Bladder pressure: 20 (20 - 20) mmHg
   This AM bladder pressure CVP
   Total In:
                                                                  5,961 mL
                                                                  1,178 mL
   PO:
   TF:
   IVF:
                                                                  5,731 mL
                                                                  1,178 mL
   Blood products:
                                                                    200 mL
   Total out:
                                                                  1,616 mL
                                                                  1,055 mL
   Urine:
                                                                  1,516 mL
                                                                    605 mL
   NG:
                                                                    100 mL
                                                                    450 mL
   Stool:
   Drains:
   Balance:
                                                                  4,345 mL
                                                                    123 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: Pressure support [**11-17**]
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 22
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 16
   PIP: 36 cmH2O
   Plateau: 26 cmH2O
   SpO2: 99%
   ABG: 7.34/40/96/23
   Ve: 11.6 L/min
   PaO2 / FiO2: 270
   Physical Examination
   General Appearance: obese, intubated, sedated, follows some commands
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, NG tube
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Breath Sounds: Diminished: bases)
   Abdominal: tense, distended, minimal bowel sounds, ascites, scrotal
   edema
   Extremities: Right: Trace, Left: Trace
   Skin:  Warm
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   125 K/uL
   10.4 g/dL
   98 mg/dL
   1.9 mg/dL
   22 mEq/L
   3.7 mEq/L
   56 mg/dL
   119 mEq/L
   147 mEq/L
   31.7 %
   16.4 K/uL
        [image002.jpg]
                             [**2120-11-7**]  08:52 PM
                             [**2120-11-7**]  09:06 PM
                             [**2120-11-8**]  04:21 AM
                             [**2120-11-8**]  12:42 PM
                             [**2120-11-8**]  03:40 PM
                             [**2120-11-9**]  04:04 AM
   WBC
   22.1
   15.9
   16.4
   Hct
   41.7
   37.1
   31.7
   Plt
   189
   155
   125
   Cr
   2.1
   2.1
   2.1
   1.9
   TCO2
   21
   20
   Glucose
   227
   208
   188
   98
   Other labs: PT / PTT / INR:19.1/33.8/1.8, ALT / AST:34/71, Alk Phos / T
   Bili:116/0.8, Amylase / Lipase:194/237, Differential-Neuts:82.0 %,
   Band:2.0 %, Lymph:13.0 %, Mono:2.0 %, Eos:0.0 %, Lactic Acid:1.2
   mmol/L, Albumin:1.8 g/dL, LDH:366 IU/L, Ca++:6.7 mg/dL, Mg++:2.4 mg/dL,
   PO4:2.8 mg/dL
   Assessment and Plan
   This is a 65 yoM w/ a h/o DM and ETOH abuse presenting from an outside
   hospital with biliary sepsis.
   .
   Plan:
   # Septic shock/pancreatitis: Patient with colecystecomy now with septic
   shock thought to be due to enterobacter from the biliary tract. Patient
   also with gallstone pancreatitis, which may be contributing to the
   shock physiology. He has cirrhosis with ascities, which clouds the
   picture of the septic shock. Right now he is off pressors and doing
   better.  SVO2 above goal.
   - Continue Zosyn for enterobacter and biliary source flora
   - Stop flagyl since it adds no coverage over zosyn (except C diff)
   - Continue fluid boluses for MAP >60 and SBP >100
   - Change central line changed yesterday
   - Add vancomycin for gram positive coverage until cultures grow out;
   concern for cellulites vs. inflammatory response
   - CT scan - IMPRESSION: 1. Ascites. 2. Nodular appearance of the liver
   surface, suggestive of cirrhosis. 3. Foley catheter balloon inflated at
   the base of the bladder, near the
   junction with the prostatic urethra, clinical correlation is
   recommended to exclude incorrect placement. 4. Small bilateral pleural
   effusions, right greater than left, with partially
   visualized consolidative right basilar airspace disease, atelectasis
   versus pneumonia. No non-contrast CT evidence of pancreatitis, as
   questioned.
   - abdominal echo - IMPRESSION: 1. Patent hepatic vasculature. 2.
   Diffusely echogenic liver parenchyma without evidence for focal liver
   lesions. 3. Marked amount of ascites. 4. Normal appearing kidneys
   without evidence for hydronephrosis. 5. No gallstones.
   - no new micro data
   - Surgery was consulted and said that not currently surgical issue
   - seen by liver - said to check hepatitis serologies, [**Doctor First Name **], anti-smooth
   muscle antibody which are pending, plan for diagnostic and therapeutic
   paracentesis sunday (tomorrow)
   - patient got IV albumin yesterday in hopes to keep some intravascular
   fluid
   - cont albumin, today is day [**3-17**], need to re-order
   - start on Ppi [**Hospital1 7**]
   .
   # Respiratory Failure: Intubated likely in the setting of sepsis.
   Likely due to fluid overload and pleural effusions tracking up from
   ascites.  Patient is intubated.  As off pressors and not requiring too
   much in the way of pressure support currently.
   -continue to monitor volume status and diurese eventually but for now
   will give volume for pancreatitis / biliary sepsis
   -in addition possible that patient had aspiration pneumonitis versus
   pneumonia given his altered mental status when his sepsis was
   worsening, would continue to follow fever curve and secretions and send
   a sputum culture if increase in secretions.
   - for now will try to wean sedation and consider spontaneously
   breathing trial
   .
   # Crit drop
   - HCt this morning significantly decreased
   - no bowel movements yet, will guiac if has some, no obvious source of
   bleeding
   - will re-check PM cbc
   - INR this morning 1.6, consider vit K as needed if bleeding becomes a
   problem
   - would consult with liveer
   # DM: on oral hypoglycemics at home.
   -Insulin drip, since patient in anasarca here and hold home medicines
   especially in the setting of continued D5W administration
   .
   # ETOH abuse: Admitted to OSH on [**2120-11-2**], no withdrawal noted at OSH
   and he is nearing the end of the window for ETOH withdrawal but also he
   has been not drinking for several weeks per his family.
   -thiamine, folate
   .
   # Renal Failure: Cr on [**11-5**] was 1.1, increasing on [**11-6**] to 1.7 and to
   2.2 on [**11-7**] at OSH, currently 1.9.  Very likely secondary to sepsis as
   well as large amount of ascites and hepatorenal syndrome physiology.
   However, sepsis physiology needs to be ruled out.
   -follow urine lytes
 FeNa 0.1% consistent mostly with prerenal
   physiology, low urine sodium
   - will check in touch with liver regarding treatment
   -abdominal ultrasound without evidence of hydronephrosis bilaterally
   -foley in place making good urine
   -continue hydration
   .
   # FEN:  NPO for now, ordered nutrition consult, will likely require
   post-pyloric feeding, so will plan to try to get IR to place this
   morning and then begin feeding
   .
   # Access: LIJ
   .
   # PPx:  sc heparin tid, pneumoboots, not written for Ppi will start
   .
   # Code:  FULL
   .
   # Dispo:  ICU until extubated
   .
   # Comm:  wife [**Telephone/Fax (1) 2101**]
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2120-11-7**] 09:06 PM
   Multi Lumen - [**2120-11-8**] 05:21 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2120-11-09 10:41:00 Physician Attending Progress Note
Chief Complaint: resp failure, sepsis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   65 yo m with ETOH cirrhosis and DM admitted from OSH with biliary
   sepsis- biliary colic sx's [**10-28**] s/p CCY, returned to hospital in shock
   5 days later +Enterobacter. Worsened despite abx , fluids. Intubated
   during hospital course.
   Since [**Hospital Unit Name 1**] tx: seen by liver/ERCP and surgery: consensus thoughts were
   of post-op pancreatitis, secondary peritonitis  but not felt that
   invasive intervention warranted
   24 Hour Events:
 ULTRASOUND - At [**2120-11-8**] 11:00 AM
 MULTI LUMEN - START [**2120-11-8**] 05:21 PM
 MULTI LUMEN - STOP [**2120-11-8**] 10:29 PM
   *right IJ placed
   *Weaned off pressors
   History obtained from Medical records, ICU housetstaff
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Metronidazole - [**2120-11-8**] 08:00 AM
   Vancomycin - [**2120-11-8**] 11:30 AM
   Piperacillin/Tazobactam (Zosyn) - [**2120-11-9**] 06:01 AM
   Infusions:
   Fentanyl - 50 mcg/hour
   Midazolam (Versed) - 1 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2120-11-9**] 12:09 AM
   Other medications:
   thiamine, chlorhexidine, insulin gtt as needed
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2120-11-9**] 10:40 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 36.4
C (97.6
   HR: 82 (70 - 88) bpm
   BP: 107/58(69) {94/50(61) - 115/73(80)} mmHg
   RR: 14 (12 - 27) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 71 Inch
   CVP: 13 (10 - 18)mmHg
   Bladder pressure: 29 (20 - 29) mmHg
   Total In:
                                                                  5,961 mL
                                                                  1,717 mL
   PO:
   TF:
   IVF:
                                                                  5,731 mL
                                                                  1,677 mL
   Blood products:
                                                                    200 mL
   Total out:
                                                                  1,616 mL
                                                                  1,325 mL
   Urine:
                                                                  1,516 mL
                                                                    875 mL
   NG:
                                                                    100 mL
                                                                    450 mL
   Stool:
   Drains:
   Balance:
                                                                  4,345 mL
                                                                    392 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 467 (467 - 467) mL
   PS : 10 cmH2O
   RR (Set): 22
   RR (Spontaneous): 18
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 16
   PIP: 16 cmH2O
   Plateau: 26 cmH2O
   SpO2: 100%
   ABG: 7.34/40/95.[**Numeric Identifier 143**]/22/-3
   Ve: 9.6 L/min
   PaO2 / FiO2: 240
   Physical Examination
   General Appearance: Well nourished, Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, No(t) NG
   tube, OG tube
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4, No(t)
   Rub
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: No(t) Clear : ), coarse BS on left
   Abdominal: Soft, Bowel sounds present, Distended, large tense abdomen
   with ascites
   Extremities: Right: 2+, Left: 2+, No(t) Cyanosis, No(t) Clubbing, diff
   Musculoskeletal: No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: No(t) Attentive, Follows simple commands, Responds to:
   Verbal stimuli, Movement: Purposeful, Sedated, No(t) Paralyzed, Tone:
   Normal
   Labs / Radiology
   10.4 g/dL
   125 K/uL
   98 mg/dL
   1.9 mg/dL
   22 mEq/L
   3.7 mEq/L
   56 mg/dL
   119 mEq/L
   147 mEq/L
   31.7 %
   16.4 K/uL
        [image002.jpg]
                             [**2120-11-7**]  08:52 PM
                             [**2120-11-7**]  09:06 PM
                             [**2120-11-8**]  04:21 AM
                             [**2120-11-8**]  12:42 PM
                             [**2120-11-8**]  03:40 PM
                             [**2120-11-9**]  04:04 AM
                             [**2120-11-9**]  09:56 AM
   WBC
   22.1
   15.9
   16.4
   Hct
   41.7
   37.1
   31.7
   Plt
   189
   155
   125
   Cr
   2.1
   2.1
   2.1
   1.9
   TCO2
   21
   20
   23
   Glucose
   227
   208
   188
   98
   Other labs: PT / PTT / INR:17.6/47.6/1.6, ALT / AST:34/71, Alk Phos / T
   Bili:116/0.8, Amylase / Lipase:194/237, Differential-Neuts:82.0 %,
   Band:2.0 %, Lymph:13.0 %, Mono:2.0 %, Eos:0.0 %, Lactic Acid:1.2
   mmol/L, Albumin:1.8 g/dL, LDH:366 IU/L, Ca++:6.7 mg/dL, Mg++:2.4 mg/dL,
   PO4:2.8 mg/dL
   Assessment and Plan
   65 year old male with EtOH abuse, [**Hospital **] transferred from OSH with
   Enterobacter sepsis s/p CCY.
   1. Biliary sepsis
   *Enterbacter sepsis s/p CCY; currently without pressor requirements
   *Appr consult recs; plan continued abx with paracentesis
   2. Cirrhosis: bloodwork pending for further eval; could be due to EtOH
   Plan dx/therapeutic paracentesis
   3. Pancreatitis: lipases decreasing
   4. Resp failure: on minimal vent requirements and following commands
   Attempt SBT and eval for extubation
   5. Anemia/drop in Hct: unclear cause as no obvious bleeding. Recheck
   hct and add PPI
   6. ARF: has been attributed to sepsis/ATN, though urine 'lytes pending.
   7. DM: insulin gtt as needed
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2120-11-7**] 09:06 PM
   Multi Lumen - [**2120-11-8**] 05:21 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 50 minutes
   Patient is critically ill

2120-11-10 07:26:00 Physician Resident Progress Note
Chief Complaint: Sepsis
   24 Hour Events:
 PARACENTESIS - At [**2120-11-9**] 05:30 PM 1L drained
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Metronidazole - [**2120-11-8**] 08:00 AM
   Vancomycin - [**2120-11-9**] 08:30 AM
   Piperacillin/Tazobactam (Zosyn) - [**2120-11-10**] 06:00 AM
   Infusions:
   Insulin - Regular - 4 units/hour
   Fentanyl - 25 mcg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2120-11-9**] 11:00 AM
   Heparin Sodium (Prophylaxis) - [**2120-11-10**] 12:00 AM
   Fentanyl - [**2120-11-10**] 06:14 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2120-11-10**] 07:25 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 36.9
C (98.4
   HR: 89 (82 - 99) bpm
   BP: 128/85(96) {100/45(61) - 128/85(96)} mmHg
   RR: 22 (13 - 22) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 71 Inch
    CVP: 11 (5 - 14)mmHg
   Bladder pressure: 22 (22 - 29) mmHg
   Total In:
                                                                  4,249 mL
                                                                  1,136 mL
   PO:
   TF:
   IVF:
                                                                  4,209 mL
                                                                  1,136 mL
   Blood products:
   Total out:
                                                                  3,590 mL
                                                                  1,020 mL
   Urine:
                                                                  2,490 mL
                                                                  1,020 mL
   NG:
                                                                    450 mL
   Stool:
   Drains:
                                                                    650 mL
   Balance:
                                                                    659 mL
                                                                    116 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 613 (463 - 643) mL
   PS : 5 cmH2O
   RR (Spontaneous): 17
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 37
   PIP: 16 cmH2O
   SpO2: 100%
   ABG: 7.33/42/99.[**Numeric Identifier 126**]/23/-3
   Ve: 11.4 L/min
   PaO2 / FiO2: 248
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese
   Eyes / Conjunctiva: PERRL, Conjunctiva pale
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended, Obese
   Extremities: Right: 4+, Left: 4+
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): x3, Movement: Purposeful, Tone: Normal
   Labs / Radiology
   161 K/uL
   11.1 g/dL
   149 mg/dL
   1.7 mg/dL
   23 mEq/L
   4.0 mEq/L
   44 mg/dL
   118 mEq/L
   146 mEq/L
   34.6 %
   21.7 K/uL
        [image002.jpg]
                             [**2120-11-7**]  09:06 PM
                             [**2120-11-8**]  04:21 AM
                             [**2120-11-8**]  12:42 PM
                             [**2120-11-8**]  03:40 PM
                             [**2120-11-9**]  04:04 AM
                             [**2120-11-9**]  09:56 AM
                             [**2120-11-9**]  12:02 PM
                             [**2120-11-9**]  02:34 PM
                             [**2120-11-9**]  05:30 PM
                             [**2120-11-10**]  03:40 AM
   WBC
   15.9
   16.4
   21.7
   Hct
   37.1
   31.7
   35.2
   34.6
   Plt
   155
   125
   161
   Cr
   2.1
   2.1
   1.9
   1.8
   1.7
   TCO2
   21
   20
   23
   23
   Glucose
   [**Telephone/Fax (2) 2181**]9
   149
   Other labs: PT / PTT / INR:15.3/27.4/1.4, ALT / AST:35/81, Alk Phos / T
   Bili:140/0.8, Amylase / Lipase:[**Telephone/Fax (1) 2182**], Differential-Neuts:82.0 %,
   Band:2.0 %, Lymph:13.0 %, Mono:2.0 %, Eos:0.0 %, Lactic Acid:1.2
   mmol/L, Albumin:2.3 g/dL, LDH:349 IU/L, Ca++:7.1 mg/dL, Mg++:2.4 mg/dL,
   PO4:3.0 mg/dL
   Assessment and Plan
   This is a 65 yoM w/ a h/o DM and ETOH abuse presenting from an outside
   hospital with biliary sepsis.
   .
   Plan:
   # Septic shock/pancreatitis: Patient with colecystecomy now with septic
   shock thought to be due to enterobacter from the biliary tract. Patient
   also with gallstone pancreatitis, which may be contributing to the
   shock physiology. He has cirrhosis with ascities, which clouds the
   picture of the septic shock. Right now he is off pressors and doing
   better.  SVO2 above goal.
   - Continue Zosyn for enterobacter and biliary source flora
   - Stop flagyl since it adds no coverage over zosyn (except C diff)
   - Continue fluid boluses for MAP >60 and SBP >100
   - Change central line changed yesterday
   - Add vancomycin for gram positive coverage until cultures grow out;
   concern for cellulites vs. inflammatory response
   - CT scan - IMPRESSION: 1. Ascites. 2. Nodular appearance of the liver
   surface, suggestive of cirrhosis. 3. Foley catheter balloon inflated at
   the base of the bladder, near the
   junction with the prostatic urethra, clinical correlation is
   recommended to exclude incorrect placement. 4. Small bilateral pleural
   effusions, right greater than left, with partially
   visualized consolidative right basilar airspace disease, atelectasis
   versus pneumonia. No non-contrast CT evidence of pancreatitis, as
   questioned.
   - abdominal echo - IMPRESSION: 1. Patent hepatic vasculature. 2.
   Diffusely echogenic liver parenchyma without evidence for focal liver
   lesions. 3. Marked amount of ascites. 4. Normal appearing kidneys
   without evidence for hydronephrosis. 5. No gallstones.
   - no new micro data
   - Surgery was consulted and said that not currently surgical issue
   - seen by liver - said to check hepatitis serologies, [**Doctor First Name **], anti-smooth
   muscle antibody which are pending, plan for diagnostic and therapeutic
   paracentesis sunday (tomorrow)
   - patient got IV albumin yesterday in hopes to keep some intravascular
   fluid
   - cont albumin, today is day [**3-17**], need to re-order
   - start on Ppi [**Hospital1 7**]
   .
   # Respiratory Failure: Intubated likely in the setting of sepsis.
   Likely due to fluid overload and pleural effusions tracking up from
   ascites.  Patient is intubated.  As off pressors and not requiring too
   much in the way of pressure support currently.
   -continue to monitor volume status and diurese eventually but for now
   will give volume for pancreatitis / biliary sepsis
   -in addition possible that patient had aspiration pneumonitis versus
   pneumonia given his altered mental status when his sepsis was
   worsening, would continue to follow fever curve and secretions and send
   a sputum culture if increase in secretions.
   - for now will try to wean sedation and consider spontaneously
   breathing trial
   .
   # Crit drop
   - HCt this morning significantly decreased
   - no bowel movements yet, will guiac if has some, no obvious source of
   bleeding
   - will re-check PM cbc
   - INR this morning 1.6, consider vit K as needed if bleeding becomes a
   problem
   - would consult with liveer
   # DM: on oral hypoglycemics at home.
   -Insulin drip, since patient in anasarca here and hold home medicines
   especially in the setting of continued D5W administration
   .
   # ETOH abuse: Admitted to OSH on [**2120-11-2**], no withdrawal noted at OSH
   and he is nearing the end of the window for ETOH withdrawal but also he
   has been not drinking for several weeks per his family.
   -thiamine, folate
   .
   # Renal Failure: Cr on [**11-5**] was 1.1, increasing on [**11-6**] to 1.7 and to
   2.2 on [**11-7**] at OSH, currently 1.9.  Very likely secondary to sepsis as
   well as large amount of ascites and hepatorenal syndrome physiology.
   However, sepsis physiology needs to be ruled out.
   -follow urine lytes
 FeNa 0.1% consistent mostly with prerenal
   physiology, low urine sodium
   - will check in touch with liver regarding treatment
   -abdominal ultrasound without evidence of hydronephrosis bilaterally
   -foley in place making good urine
   -continue hydration
   .
   # FEN:  NPO for now, ordered nutrition consult, will likely require
   post-pyloric feeding, so will plan to try to get IR to place this
   morning and then begin feeding
   .
   # Access: LIJ
   .
   # PPx:  sc heparin tid, pneumoboots, not written for Ppi will start
   .
   # Code:  FULL
   .
   # Dispo:  ICU until extubated
   .
   # Comm:  wife [**Telephone/Fax (1) 2101**]
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2120-11-7**] 09:06 PM
   Multi Lumen - [**2120-11-8**] 05:21 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2120-11-10 11:51:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 PARACENTESIS - At [**2120-11-9**] 05:30 PM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Metronidazole - [**2120-11-8**] 08:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2120-11-10**] 06:00 AM
   Vancomycin - [**2120-11-10**] 08:00 AM
   Infusions:
   Insulin - Regular - 3 units/hour
   Fentanyl - 25 mcg/hour
   Other ICU medications:
   Fentanyl - [**2120-11-10**] 06:14 AM
   Heparin Sodium (Prophylaxis) - [**2120-11-10**] 08:24 AM
   Pantoprazole (Protonix) - [**2120-11-10**] 08:37 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2120-11-10**] 11:31 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 37.1
C (98.8
   HR: 81 (81 - 99) bpm
   BP: 118/61(75) {100/45(61) - 141/85(96)} mmHg
   RR: 14 (13 - 22) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 71 Inch
   CVP: 7 (5 - 18)mmHg
   Bladder pressure: 16 (16 - 22) mmHg
                                Total In:
                                                                  4,249 mL
                                                                  1,899 mL
   PO:
                                TF:
   IVF:
                                                                  4,209 mL
                                                                  1,839 mL
   Blood products:
   Total out:
                                                                  3,590 mL
                                                                  1,690 mL
   Urine:
                                                                  2,490 mL
                                                                  1,690 mL
   NG:
                                                                    450 mL
   Stool:
   Drains:
                                                                    650 mL
   Balance:
                                                                    659 mL
                                                                    209 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 450 (450 - 643) mL
   PS : 5 cmH2O
   RR (Spontaneous): 26
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 37
   PIP: 11 cmH2O
   SpO2: 100%
   ABG: 7.33/42/99.[**Numeric Identifier 126**]/23/-3
   Ve: 8.9 L/min
   PaO2 / FiO2: 248
   Physical Examination
   Overweight, interactive, intubated, follows commands
   Lungs scattered coarse BS
   CV RRR
   Abd +bs, nontender
   Ext: boots, calves nontender, trace-1+ edema
   Skin: pockets of erythema over abdomen and both knee joints, unchanged
   Labs / Radiology
   11.1 g/dL
   161 K/uL
   149 mg/dL
   1.7 mg/dL
   23 mEq/L
   4.0 mEq/L
   44 mg/dL
   118 mEq/L
   146 mEq/L
   34.6 %
   21.7 K/uL
        [image002.jpg]
                             [**2120-11-7**]  09:06 PM
                             [**2120-11-8**]  04:21 AM
                             [**2120-11-8**]  12:42 PM
                             [**2120-11-8**]  03:40 PM
                             [**2120-11-9**]  04:04 AM
                             [**2120-11-9**]  09:56 AM
                             [**2120-11-9**]  12:02 PM
                             [**2120-11-9**]  02:34 PM
                             [**2120-11-9**]  05:30 PM
                             [**2120-11-10**]  03:40 AM
   WBC
   15.9
   16.4
   21.7
   Hct
   37.1
   31.7
   35.2
   34.6
   Plt
   155
   125
   161
   Cr
   2.1
   2.1
   1.9
   1.8
   1.7
   TCO2
   21
   20
   23
   23
   Glucose
   [**Telephone/Fax (2) 2181**]9
   149
   Other labs: PT / PTT / INR:15.3/27.4/1.4, ALT / AST:35/81, Alk Phos / T
   Bili:140/0.8, Amylase / Lipase:[**Telephone/Fax (1) 2182**], Differential-Neuts:82.0 %,
   Band:2.0 %, Lymph:13.0 %, Mono:2.0 %, Eos:0.0 %, Lactic Acid:1.2
   mmol/L, Albumin:2.3 g/dL, LDH:349 IU/L, Ca++:7.1 mg/dL, Mg++:2.4 mg/dL,
   PO4:3.0 mg/dL
   Urine Cx: S.aureus
   Bd Cx: Enterobacter
   CXR today: not back yet
   Assessment and Plan
   65 year old male with EtOH abuse and DM s/p recent lap choly
   Post-op he developed biliary Enterobacter sepsis, pancreatitis and
   ascites in the context of cirrhotic liver previously noted intra-op-
   seen by ERCP/Liver who felt cirrhosis had acutely decompensated after
   surgery
   Today: LFT
s slightly up most noticably lipase, WBC increasing
   *Respiratory failure: occurred in the context of volume overload/sepsis
      Currently tolerating CPAP without problems
      Aim to extubate today
   *Enterobacter biliary sepsis
 On zosyn. Paracentesis performed
   yesterday showed improvement in nature of fluid.
   *Cellulitis: on vanco
   *ARF: Cr unchanged or slowly decreased. As some concern for
   pancreatitis worsening, would favor fluids if urine output begins to
   drop.
   *Pancreatitis: numbers increasing again today, reason unclear. f/u
   consult recs
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2120-11-7**] 09:06 PM
   Multi Lumen - [**2120-11-8**] 05:21 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2120-11-11 07:42:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Patient extuabted
   Micro lab closed on weekends at OSH. Need to try again to get final
   printed report of sensitivities of enterobacter.
   ERCP: no need for ERCP now since HIDA scan negative.
   Surgery: no recs
   UOP goal >50cc/hr
 INVASIVE VENTILATION - STOP [**2120-11-10**] 11:58 AM
   intubated priot to admission
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Metronidazole - [**2120-11-8**] 08:00 AM
   Vancomycin - [**2120-11-10**] 08:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2120-11-11**] 06:44 AM
   Infusions:
   Insulin - Regular - 1 units/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2120-11-10**] 08:37 AM
   Heparin Sodium (Prophylaxis) - [**2120-11-10**] 11:25 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2120-11-11**] 07:41 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 37
C (98.6
   HR: 85 (79 - 96) bpm
   BP: 142/64(100) {118/61(75) - 154/82(100)} mmHg
   RR: 22 (14 - 26) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 71 Inch
    CVP: 12 (4 - 18)mmHg
   Bladder pressure: 16 (16 - 16) mmHg
   Total In:
                                                                  3,766 mL
                                                                    277 mL
   PO:
   TF:
   IVF:
                                                                  3,706 mL
                                                                    277 mL
   Blood products:
   Total out:
                                                                  3,620 mL
                                                                  1,220 mL
   Urine:
                                                                  3,620 mL
                                                                  1,220 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    146 mL
                                                                   -943 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 450 (450 - 450) mL
   PS : 5 cmH2O
   RR (Spontaneous): 26
   PEEP: 5 cmH2O
   FiO2: 35%
   PIP: 11 cmH2O
   SpO2: 99%
   ABG: ///23/
   Ve: 8.9 L/min
   Physical Examination
   Gen: NAD, communicative,  pt uncomfrotable from distension,
   HEENT: AT/NC, PERRL, EOMI, sclera anicteric, no LAD
   CV: S1 + S2, RRR
   Pulm: coarse upper airway sounds,
   Abd: distended, + BS, non-tender to palpation, mild discomfort in
   epigastric region, +ascites, no rebound, no gaurding
   Ext: disffuse anasarca
   Neuro: AAOx3, able to follow commands
   Labs / Radiology
   204 K/uL
   11.3 g/dL
   106 mg/dL
   1.3 mg/dL
   23 mEq/L
   3.7 mEq/L
   31 mg/dL
   117 mEq/L
   145 mEq/L
   34.6 %
   19.5 K/uL
        [image002.jpg]
                             [**2120-11-8**]  04:21 AM
                             [**2120-11-8**]  12:42 PM
                             [**2120-11-8**]  03:40 PM
                             [**2120-11-9**]  04:04 AM
                             [**2120-11-9**]  09:56 AM
                             [**2120-11-9**]  12:02 PM
                             [**2120-11-9**]  02:34 PM
                             [**2120-11-9**]  05:30 PM
                             [**2120-11-10**]  03:40 AM
                             [**2120-11-11**]  04:00 AM
   WBC
   15.9
   16.4
   21.7
   19.5
   Hct
   37.1
   31.7
   35.2
   34.6
   34.6
   Plt
   155
   125
   161
   204
   Cr
   2.1
   2.1
   1.9
   1.8
   1.7
   1.3
   TCO2
   20
   23
   23
   Glucose
   [**Telephone/Fax (2) 2181**]9
   149
   106
   Other labs: PT / PTT / INR:15.1/26.5/1.3, ALT / AST:35/81, Alk Phos / T
   Bili:140/0.8, Amylase / Lipase:[**Telephone/Fax (1) 2182**], Differential-Neuts:92.9 %,
   Band:2.0 %, Lymph:4.1 %, Mono:2.3 %, Eos:0.6 %, Lactic Acid:1.2 mmol/L,
   Albumin:2.3 g/dL, LDH:349 IU/L, Ca++:7.4 mg/dL, Mg++:2.0 mg/dL, PO4:2.6
   mg/dL
   Assessment and Plan
   This is a 65 yoM w/ a h/o DM and ETOH abuse presenting from an outside
   hospital with biliary sepsis.
   .
   Plan:
   # Septic shock/pancreatitis: Patient with colecystecomy s/p ERCP at
   OSH, now growing enterobacter from biliary tract fluid and blood. Liver
   enzymes stable, lipase still trending up today. Low likelihood of bile
   duct leak with a negative HIDA scan. Patient has been off pressors for
   48 hours and ventilatory stand point is improving.
   -          Contnue Zosyn for enterobacter
   -         d/c Vancomycin for possible cellulites (day 3)
   -          Continue fluid bolus for MAP >60 or SBP >100 or UOP <30cc/hr
   -          cont to trend LFTs and labs
   -          f/u ERCP recs
   -          advance diet as tolerated
   # Respiratory Failure: Now on [**6-17**] with RSBI of 35. Patient awake and
   with minimal secretions and good gag reflex. Good candidate for
   extuabtion today.
   - Extubate later today
   .
   # DM: on oral hypoglycemics at home.
   -Insulin drip, since patient in anasarca here and hold home medicines
   especially in the setting of continued D5W administration
   .
   # ETOH abuse: Admitted to OSH on [**2120-11-2**], no withdrawal noted at OSH
   and he is nearing the end of the window for ETOH withdrawal but also he
   has been not drinking for several weeks per his family.
   -thiamine, folate
   .
   # Renal Failure: Creatinine improving; today 1.7. Most likely pre-renal
   in the setting of sepsis since it is slowly improving with fluids and
   FeNa yesterday was 0.1%. However, there may be low oncotic pressure
   affecting the kidney function as well. Will keep a CVP target of [**5-19**]
   and follow urine output today. USG without evidence of hydronephrosis.
   -CVP goal [**5-19**]
   -UOP goal 30cc/hr
   -Continue hydration PRN
   -Trend creatinine; if not going down may try albumin
   .
   # FEN:  NPO for now., may feed tomorrow depending of how extubation
   goes.
   .
   # Access: LIJ
   .
   # PPx:  sc heparin tid, pneumoboots, not written for Ppi will start
   .
   # Code:  FULL
   .
   # Dispo:  ICU until extubated
   .
   # Comm:  wife [**Telephone/Fax (1) 2101**]
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2120-11-8**] 05:21 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2120-11-12 07:13:00 Physician Resident Progress Note
Chief Complaint: Sepsis
   24 Hour Events:
   Therapeutic paracentesis, removed 4L of fluids and given 50gm albumin
   Ascitic fluid: poly: 863 --> SBP on zosyn
   d/c insulin ggt, on ISS
   started on clear liquids and advance as tolerate --> pt tolerating
   clears
 PARACENTESIS - At [**2120-11-11**] 07:05 PM
   History obtained from Patient
   Allergies:
   History obtained from PatientNo Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2120-11-11**] 08:11 AM
   Piperacillin/Tazobactam (Zosyn) - [**2120-11-12**] 12:00 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2120-11-12**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Pt denies abdominal pain.  Patient tolerating clear liquids, requesting
   to eat more.
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Cardiovascular: No(t) Chest pain, No(t) Palpitations
   Respiratory: No(t) Cough, No(t) Dyspnea
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea
   Genitourinary: No(t) Dysuria
   Flowsheet Data as of  [**2120-11-12**] 07:12 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.8
C (98.2
   HR: 84 (81 - 100) bpm
   BP: 147/69(89) {118/44(54) - 162/130(135)} mmHg
   RR: 23 (11 - 30) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 71 Inch
    CVP: 10 (8 - 21)mmHg
   Total In:
                                                                  1,741 mL
                                                                    968 mL
   PO:
                                                                    720 mL
                                                                    800 mL
   TF:
   IVF:
                                                                    821 mL
                                                                    168 mL
   Blood products:
                                                                    200 mL
   Total out:
                                                                  7,000 mL
                                                                    940 mL
   Urine:
                                                                  3,000 mL
                                                                    940 mL
   NG:
   Stool:
   Drains:
                                                                  4,000 mL
   Balance:
                                                                 -5,259 mL
                                                                     28 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: ///24/
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese, comforatable
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) Rub, (Murmur: No(t)
   Systolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : ),
   poor inspiratory effort
   Abdominal: Non-tender, Bowel sounds present, Distended, No(t) Tender: ,
   Obese, + ascites, firm, dressing over paracentesis site minimally
   saturated
   Extremities: anasarca
   Skin:  Not assessed, livideo reticularis
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): x3, Movement: Purposeful, Tone: Not assessed
   Labs / Radiology
   247 K/uL
   9.7 g/dL
   250 mg/dL
   1.3 mg/dL
   24 mEq/L
   4.1 mEq/L
   26 mg/dL
   113 mEq/L
   141 mEq/L
   29.0 %
   13.6 K/uL
        [image002.jpg]
                             [**2120-11-8**]  12:42 PM
                             [**2120-11-8**]  03:40 PM
                             [**2120-11-9**]  04:04 AM
                             [**2120-11-9**]  09:56 AM
                             [**2120-11-9**]  12:02 PM
                             [**2120-11-9**]  02:34 PM
                             [**2120-11-9**]  05:30 PM
                             [**2120-11-10**]  03:40 AM
                             [**2120-11-11**]  04:00 AM
                             [**2120-11-12**]  05:27 AM
   WBC
   16.4
   21.7
   19.5
   13.6
   Hct
   31.7
   35.2
   34.6
   34.6
   29.0
   Plt
   125
   161
   204
   247
   Cr
   2.1
   1.9
   1.8
   1.7
   1.3
   1.3
   TCO2
   20
   23
   23
   Glucose
   188
   98
   119
   149
   106
   250
   Other labs: PT / PTT / INR:15.1/26.5/1.3, ALT / AST:28/47, Alk Phos / T
   Bili:162/1.0, Amylase / Lipase:[**Telephone/Fax (1) 2227**], Differential-Neuts:92.9 %,
   Band:2.0 %, Lymph:4.1 %, Mono:2.3 %, Eos:0.6 %, Lactic Acid:1.2 mmol/L,
   Albumin:2.3 g/dL, LDH:281 IU/L, Ca++:7.5 mg/dL, Mg++:2.1 mg/dL, PO4:2.6
   mg/dL
   Assessment and Plan
 CHOLANGITIS
 DIABETES MELLITUS (DM), TYPE II
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 ALCOHOL ABUSE
 PANCREATITIS, ACUTE
 ANEMIA, OTHER
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
   This is a 65 yoM w/ a h/o DM and ETOH abuse presenting from an outside
   hospital with biliary sepsis.
   .
   Plan:
   # Sepsis/pancreatitis: growing enterobacter from biliary tract fluid
   and blood. Liver enzymes stable and pancreatic enzymes have stabilized
   and are trending down. Low likelihood of bile duct leak with a negative
   HIDA scan. Patient has been off pressors for 48 hours and extubated.
   Pt had paracentesis and removed 4L fluid. Ascitic fluid: poly: 863 -->
   SBP on zosyn
   Low protein 1.5.  --> t/c SBP ppx, SAAG >1.1 hepatic etiology (ascites
   albumin <1.0)
   d/c insulin ggt, on ISS
   -          Contnue Zosyn for enterobacter and SBP x 14 days
   -          t/c SBP ppx because low protein in ascitic fluid (1.5)
   will f/u with liver recs
   -          f/u peritoneal fluid cultures
   -          cont to trend LFT and labs
   -          Continue fluid bolus for MAP >60 or SBP >100 or UOP <30cc/hr
   -          patient tolerating clears and may advance as tolerated.
   # Respiratory Failure: Pt extubated and tolerating.  Currently on NC
   .
   # DM: holding home meds.  Currently on RISS
   -  cont RISS
   - will add lantus today since patient no longer NPO
 will dose based
   on SS usage
   .
   # ETOH abuse: Admitted to OSH on [**2120-11-2**], no withdrawal noted at OSH
   and he is nearing the end of the window for ETOH withdrawal but also he
   has been not drinking for several weeks per his family.  No evidence of
   withdrawl.
   -thiamine, folate
   .
   # Renal Failure: Creatinine stable; today 1.3. Most likely pre-renal in
   the setting of sepsis since it is slowly improving with fluids and FeNa
   was 0.1%.
   -UOP goal 30cc/hr
   -Continue hydration PRN
   -Trend creatinine
   .
   # FEN:  Clears currently, will advance as tolerated
   .
   # Access: LIJ
   .
   # PPx:  sc heparin tid, pneumoboots, PPI
   .
   # Code:  FULL
   .
   # Dispo:  patient can be called out to floor if tolerating diet and
   stable, will get PT consult
   .
   # Comm:  wife [**Telephone/Fax (1) 2101**]
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2120-11-8**] 05:21 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2120-11-12 08:55:00 Physician Attending Progress Note
Chief Complaint: Biliary sepsis, resolving.
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Paracentesis yesterday, ~4 liters removed. Received 50gm of albumin.
   PMNs 863, still c/w SBP.
   D/c'ed insulin gtt, changed to RSSI.
   Started on clear liquid diet; no abdominal pain, less distension.
   24 Hour Events:
 PARACENTESIS - At [**2120-11-11**] 07:05 PM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2120-11-11**] 08:11 AM
   Piperacillin/Tazobactam (Zosyn) - [**2120-11-12**] 08:00 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2120-11-12**] 08:00 AM
   Other medications:
   RSSI
   Atrovent / Abuterol nebs
   Folic acid
   Thiamine
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2120-11-12**] 08:55 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.8
C (98.2
   HR: 87 (81 - 100) bpm
   BP: 142/68(83) {118/44(54) - 162/83(99)} mmHg
   RR: 23 (11 - 30) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 71 Inch
   CVP: 10 (8 - 21)mmHg
   Total In:
                                                                  1,741 mL
                                                                  1,449 mL
   PO:
                                                                    720 mL
                                                                  1,160 mL
   TF:
   IVF:
                                                                    821 mL
                                                                    289 mL
   Blood products:
                                                                    200 mL
   Total out:
                                                                  7,000 mL
                                                                  1,200 mL
   Urine:
                                                                  3,000 mL
                                                                  1,200 mL
   NG:
   Stool:
   Drains:
                                                                  4,000 mL
   Balance:
                                                                 -5,259 mL
                                                                    249 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG:
   Physical Examination
   General Appearance: No(t) Well nourished, No acute distress, Overweight
   / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, Conjunctiva pale,
   Sclera edema
   Lymphatic: No(t) Cervical WNL, No(t) Supraclavicular WNL
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4, No(t)
   Rub, (Murmur: No(t) Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : ,
   No(t) Crackles : , No(t) Wheezes : )
   Abdominal: Soft, No(t) Non-tender, Bowel sounds present, Distended,
   Obese
   Extremities: Right: Trace, Left: Trace, No(t) Cyanosis, No(t) Clubbing
   Skin:  Not assessed, persistent discoloration c/w levido reticularis
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   9.7 g/dL
   247 K/uL
   250 mg/dL
   1.3 mg/dL
   24 mEq/L
   4.1 mEq/L
   26 mg/dL
   113 mEq/L
   141 mEq/L
   29.0 %
   13.6 K/uL
        [image002.jpg]
                             [**2120-11-8**]  12:42 PM
                             [**2120-11-8**]  03:40 PM
                             [**2120-11-9**]  04:04 AM
                             [**2120-11-9**]  09:56 AM
                             [**2120-11-9**]  12:02 PM
                             [**2120-11-9**]  02:34 PM
                             [**2120-11-9**]  05:30 PM
                             [**2120-11-10**]  03:40 AM
                             [**2120-11-11**]  04:00 AM
                             [**2120-11-12**]  05:27 AM
   WBC
   16.4
   21.7
   19.5
   13.6
   Hct
   31.7
   35.2
   34.6
   34.6
   29.0
   Plt
   125
   161
   204
   247
   Cr
   2.1
   1.9
   1.8
   1.7
   1.3
   1.3
   TCO2
   20
   23
   23
   Glucose
   188
   98
   119
   149
   106
   250
   Other labs: PT / PTT / INR:14.2/27.1/1.2, ALT / AST:28/47, Alk Phos / T
   Bili:162/1.0, Amylase / Lipase:[**Telephone/Fax (1) 2227**], Differential-Neuts:92.9 %,
   Band:2.0 %, Lymph:4.1 %, Mono:2.3 %, Eos:0.6 %, Lactic Acid:1.2 mmol/L,
   Albumin:2.3 g/dL, LDH:281 IU/L, Ca++:7.5 mg/dL, Mg++:2.1 mg/dL, PO4:2.6
   mg/dL
   pCXR ([**11-12**]): Essentially unchanged from 2 days ago. Persistent right
   opacity c/w right pleural effusion.
   Assessment and Plan
 CHOLANGITIS: Improved from admission, plan to continue Vanc / Zosyn
   for a total of 14 days. No plans for any intervention by Surgery or
   ERCP.
 DIABETES MELLITUS (DM), TYPE II: Changed insulin gtt to RSSI
   yesterday; sugars remain moderately elevated (in the 200s), so will
   increase RSSI for better control.
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**]): Improved, now extubated x
   3 days. Will titrate oxygen down as tolerate.
 ALCOHOL ABUSE: On folic acid and thiamine, no evidence of withdrawal.
 PANCREATITIS, ACUTE: Symptomatically much improved, tolerating clears
   yesterday. Continue symptomatic treatment, will further advance diet.
 ANEMIA, OTHER: Stable H/H, no indication for transfusion at this
   time. Follow daily.
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF): Creatinine stable
   for yesterday with treatement of his underlying pancreatitis and
   biliary infection. Monitor UOP and creatinine on a daily basis. Can
   likely d/c foley today.
   Will request PT consult today; stable for floor, will call out.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2120-11-8**] 05:21 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :
   Total time spent:
   ------ Protected Section ------
   MICU ATTENDING ADDENDUM
   I saw and examined the patient, and was physically present with the ICU
   team for the key portions of the services provided. I agree with the
   note above, including the assessment and plan. I would emphasize and
   add the following points: 65M EtOH dependence, recent lap chole,
   pancreatitis and SBP. Tolerated diet and large volume paracentesis
   yesterday.
   Exam notable for Tm 98.4 BP 130/87 HR 80 RR 18 with sat 97. WD man, NAD
   in chair. JVD 8cm, lungs CTA B. RRR s1s2. Soft, NT, +BS. Trace edema.
   Labs notable for WBC 13K, HCT 29, K+ 4.1, Cr 1.3, lactate 1.2.
   Agree with plan to continue antibiotics for SBP and hold on further
   imaging. His renal failure is resolving with IVF and his pancreatitis
   also appears to be subsiding despite increased PO intake. Remainder of
   plan as outlined above.
   Total time: 35 min
   ------ Protected Section Addendum Entered By:[**Name (NI) 453**] [**Last Name (NamePattern1) 775**], MD
   on:[**2120-11-12**] 05:00 PM ------